US09399646B2
Step 2: (E)-6-(2-Phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)-2-naphthoic acid
Potassium permanganate (5 mL of 1.0 M aqueous solution) was added to a solution of (E)-6-(2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)-2-naphthaldehyde (240 mg, 0.49 mmol) and acetone:H2O (2:1, 15 mL) at room temperature. The reaction was stirred for 3 h, quenched with sat. Na2SO3, acidified to pH 5 with 1.0 M aqueous HCl soln, and then extracted with 2× EtOAc. The organic layers were combined, washed with water then brine, dried over Na2SO4, and concentrated. The crude material was used without further purification. LCMS: 419 [(M-THP+H)+H]+.

reactant | Potassium permanganate | 1.0 M, 5 mL | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | (E)-6-(2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)-2-naphthaldehyde | 0.49 mmol, 240 mg | C1(=CC=CC=C1)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C=1C=C2C=CC(=CC2=CC1)C=O)/CC | C33H30N2O2
solvent | acetone H2O | 15 mL | CC(=O)C.O
product | (E)-6-(2-Phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)-2-naphthoic acid | C1(=CC=CC=C1)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C=1C=C2C=CC(=CC2=CC1)C(=O)O)/CC | C33H30N2O3
